US07019147B1
N-(2-Bromo-phenyl)-3-phenyl-acrylamide
2-Bromoaniline (48.41 g, 281.4 mMol) was dissolved in 500 mL of anhydrous DCM under an atmosphere of dry N2. Pyridine (45.5 mL, 563 mMol) was then added and the reaction was subsequently cooled to 0° C. after which time cinnamyl chloride (46.9 g, 281.4 mMol) was added. The reaction mixture was slowly warmed up to ambient temperature and then stirred overnight at ambient temperature. The reaction was diluted with 300 mL of saturated aqueous NaHCO3 and then extracted with DCM. The DCM layer was then washed three times with 10% aqueous NaHSO4 followed by saturated aqueous NaHCO3 and finally brine. The DCM layer was then dried over Na2SO4, filtered and concentrated under vacuum to give 85.08 g of a tan solid as the title compound 61A.

reactant | 2-Bromoaniline | 281.4 mMol, 48.41 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | Pyridine | 563 mMol, 45.5 mL | N1=CC=CC=C1 | C5H5N
reactant | cinnamyl chloride | 281.4 mMol, 46.9 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Bromo-phenyl)-3-phenyl-acrylamide | 85.08 g | BrC1=C(C=CC=C1)NC(C=CC1=CC=CC=C1)=O | C15H12BrNO
